US07655679B2
A solution of 750 mg 4-(2-Butylamino-ethyl)-benzonitrile, 854 mg 2-chlorobenzooxazole and 0.95 ml N,N-diisopropylethylamine in 10 ml dimethylformamide were stirred under microwave irradiation at 200° C. for thirty minutes. The cooled reaction mixture was diluted by the addition of 60 ml ethyl acetate, then washed three times with 40 ml brine. The organic layer was dried over MgSO4, then the solvent was removed in vacuo. The residue was purified by RP-HPLC to obtain 290 mg 4-[2-(Benzooxazol-2-yl-butyl-amino)-ethyl]-benzonitrile as pale yellow amorphous solid.

reactant | 4-(2-Butylamino-ethyl)-benzonitrile | 750 mg | C(CCC)NCCC1=CC=C(C#N)C=C1 | C13H18N2
reactant | 2-chlorobenzooxazole | 854 mg | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
reactant | N,N-diisopropylethylamine | 0.95 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-[2-(Benzooxazol-2-yl-butyl-amino)-ethyl]-benzonitrile | 290 mg | O1C(=NC2=C1C=CC=C2)N(CCC2=CC=C(C#N)C=C2)CCCC | C20H21N3O
